US04657914
6-methyl-8β-(3,5-dimethyl-4-pyrazolylmethyl)-ergoline
A mixture of 3 g of 6-methyl-8β-(3-oxo-2-acetyl-butyl)-ergoline, prepared as described in U.S. Pat. No. 4,252,941, 100 ml of methanol and 3 ml of hydrazine was refluxed for 1 hour. After evaporation to dryness in vacuo the residue was crystallized from methanol to give 2.5 g of the title compound, m.p. >300° C.

reactant | 6-methyl-8β-(3-oxo-2-acetyl-butyl)-ergoline | 3 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CC(C(C)=O)C(C)=O | C21H26N2O2
reactant | hydrazine | 3 ml | NN | H4N2
solvent | methanol | 100 ml | CO | CH4O
product | 6-methyl-8β-(3,5-dimethyl-4-pyrazolylmethyl)-ergoline | 2.5 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CC=3C(=NNC3C)C | C21H26N4
